US05932707
Thionyl chloride (3.5 g, 30 mmol) in chloroform (20 cm3) was added dropwise to a solution of N-(3-hydroxypropyl)-(tetrahydropyran-2-ylthio)acetamide (5.5 g, 23.5 mmol) and triethylamine (3.5 g, 35 mmol) in chloroform (50 cm3), and the mixture stirred at room temperature for 48 h. The resulting solution was extracted with water (2×35 cm3), dried (MgSO4), filtered, and volatile components removed under reduced pressure to give the N-(3-chloropropyl)-tetrahydropyran-2-ylthioacetamide (1.5 g, 25%) as an oil. This material was sufficiently pure to be used without further purification.

reactant | Thionyl chloride | 30 mmol, 3.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-(3-hydroxypropyl)-(tetrahydropyran-2-ylthio)acetamide | 23.5 mmol, 5.5 g | OCCCNC(CSC1OCCCC1)=O | C10H19NO3S
reactant | triethylamine | 35 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 50 cm3 | C(Cl)(Cl)Cl | CHCl3
product | N-(3-chloropropyl)-tetrahydropyran-2-ylthioacetamide | 1.5 g, 25% | ClCCCNC(CC1OCCCC1)=S | C10H18ClNOS
